US08278316B2
B. 5-(4-Chlorobenzylthio)-2-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyridazin-3(2H)-one
A solution of 5-(4-chlorobenzylthio)pyridazin-3(2H)-one Part A (21 mg, 0.083 mmol), 4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenylboronic acid Part D of Procedure 4 (39.9 mg, 0.17 mmol), pyridine (0.067 mL, 0.83 mmol) and Cu(OAc)2 (45.3 mg, 0.25 mmol) in CH2Cl2 (13.0 mL) and MeOH (2.0 mL) was stirred at RT open to air for 4 hours. The mixture was poured into 1.0 N aqueous HCl (100 mL) and extracted with CH2Cl2. The CH2Cl2 layer was dried over Na2SO4 and concentrated. The crude product was purified by prep-HPLC (C18 column/Water:MeOH:TFA 90:10:0.1 to 10:90:0.1 gradient) giving the title compound 5-(4-chlorobenzylthio)-2-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyridazin-3(2H)-one F-1 (23 mg, 61% yield) as white solid. LC/MS 447 (M+H)+, tR 4.14 min (method 3); 1H NMR (500 MHz, Chloroform-D) δ ppm 7.65 (1H, d, J=2.20 Hz), 7.35 (4H, s), 7.07-7.13 (2H, m), 6.96 (1H, d, J=8.80 Hz), 6.66 (1H, d, J=2.20 Hz), 4.15 (2H, s), 3.81-3.91 (5H, m), 1.35 (6H, s).

reactant | 5-(4-chlorobenzylthio)pyridazin-3(2H)-one | ClC1=CC=C(CSC2=CC(NN=C2)=O)C=C1 | C11H9ClN2OS
reactant | 4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenylboronic acid | OC(COC1=C(C=C(C=C1)B(O)O)OC)(C)C | C11H17BO5
reactant | pyridine | 0.83 mmol, 0.067 mL | N1=CC=CC=C1 | C5H5N
reactant | HCl | 1.0 N, 100 mL | Cl | ClH
solvent | CH2Cl2 | 13.0 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 2.0 mL | CO | CH4O
catalyst | Cu(OAc)2 | 0.25 mmol, 45.3 mg | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 5-(4-chlorobenzylthio)-2-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyridazin-3(2H)-one | ClC1=CC=C(CSC2=CC(N(N=C2)C2=CC(=C(C=C2)OCC(C)(C)O)OC)=O)C=C1 | C22H23ClN2O4S
